US08809525B2
N-[5-(3-Amino-5-phenyl-1,2,4-triazin-6-yl)-2-methoxyphenyl]acetamide (0.170 g, 25%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.5 g, 1.99 mmol) and N-[2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]acetamide according to the general procedure of Example 1.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 1.99 mmol, 0.5 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | N-[2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]acetamide | COC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)NC(C)=O | C15H22BNO4
product | N-[5-(3-Amino-5-phenyl-1,2,4-triazin-6-yl)-2-methoxyphenyl]acetamide | 0.170 g, 25% | NC=1N=NC(=C(N1)C1=CC=CC=C1)C=1C=CC(=C(C1)NC(C)=O)OC | C18H17N5O2
